* C:\users\eda\My Documents\git\omegapsu\voeding\tranny_dc_bias.asc
D1 N001 N002 D
D2 N003 N002 D
D3 N004 N001 D
D4 N004 N003 D
C1 N002 0 1m
C2 0 N004 1m
V1 N001 0 SINE(0 11.5 50) Rser=4
V2 0 N003 SINE(0 12 50) Rser=4
R1 N002 0 1k
R2 0 N004 300
.model D D
.lib C:\users\eda\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0.1
.backanno
.end
